US05696267
Step 1: 3-(3,4-dichlorophenyl)-dihydro-2(3H)-furanone
Heat [(CH3)3Si]2NLi (230 ml, 1.0M in THF) under N2 to 45° C. and add 3,4 dichlorophenyl acetic acid methyl ester (40 g, 0.183 moles) dissolved in 60 ml of dry THF dropwise over 2 h. Stir the solution at 45° C. for another 2.5 h. Cool the solution to room temperature, add a dry THF solution (30 ml.) of THP-protected Br(CH2)2OH dropwise over 1 h., and stir the solution for 24 h. Cool the solution in an ice bath and quench the reaction by adding, dropwise, 250 ml. of 1.0M aqueous HCl. Extract the solution with Et2 O, wash the organic layer twice with 1.0M aqueous HCl, then with water, and dry over anhydrous Na2SO4. Remove the solvent, dissolve the residue in CH3OH and add 0.5 g of pTSA. Stir the solution at room temperature overnight, remove the solvent, add CH3OH (500 ml) and stir for 6 h. Remove the solvent again, add more CH3OH (500 ml.), stir overnight and remove the solvent. Dissolve the resulting oil in CH2Cl2 (1200 ml.), wash twice with saturated aqueous NaHCO3, then water, and dry over anhydrous Na2SO4. Remove the solvent in vacuo. Purify the reaction mixture by flash chromatography (SiO2) using EtOAc: hexanes (3:7) as eluent. Yield: 22 g. Cl-MS: 231 (100%), 233 (65%).

reactant | 3,4 dichlorophenyl acetic acid methyl ester | 0.183 moles, 40 g | COC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | Br(CH2)2OH | BrCCO | C2H5BrO
reactant | HCl | 1.0M | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(3,4-dichlorophenyl)-dihydro-2(3H)-furanone | ClC=1C=C(C=CC1Cl)C1C(OCC1)=O | C10H8Cl2O2
